US06949542B2
[2-{3-[3-(6-Dimethylamino-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J6) (281 mg, 0.75 mmol) and 3-[3-(6-dimethylamino-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K28) (255 mg, 0.75 mmol) according to the general procedure M. Obtained as a light brown solid (409 mg, 85%).

reactant | [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.75 mmol, 281 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)N)=O | C14H16F6N2O3
reactant | 3-[3-(6-dimethylamino-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 255 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)N(C)C)=O | C20H24N2O3
product | [2-{3-[3-(6-Dimethylamino-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)N(C)C)=O)=O | C30H30F6N4O5
